US07115596B2
6-Methyl-2-nitropyridin-3-yl trifluoromethanesulfonate
To a solution of 3-hydroxy-6-methyl-2-nitropyridine (2 g, 12.97 mmol, 1 eq) in CH2Cl2 (150 mL) at 0° C. under N2 was added triethylamine (2.68 mL, 19.27 mmol, 1.48 eq) and followed by trifluoromethanesulfonic anhydride (2.62 mL, 15.57 mmol, 1.2 eq). The mixture was stirred for 2 hours at 0° C. and then quenched with water. The organic layer was separated, washed with water and dried over MgSO4. After filtration and concentration at reduced pressure, the crude mixture was purified by flash chromatography on silica gel (15% EA/Hex) to afford the desired product (3.65 g, 98% yield) as a yellow oil. H NMR (CDCl3) δ 2.70 (s, 3H), 7.59 (d, 1H), 7.81 (d, 2H).

reactant | 3-hydroxy-6-methyl-2-nitropyridine | 12.97 mmol, 2 g, 1 eq | OC=1C(=NC(=CC1)C)[N+](=O)[O-] | C6H6N2O3
reactant | triethylamine | 19.27 mmol, 2.68 mL, 1.48 eq | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 15.57 mmol, 2.62 mL, 1.2 eq | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 6-Methyl-2-nitropyridin-3-yl trifluoromethanesulfonate | 3.65 g, 98% yield | FC(S(=O)(=O)OC=1C(=NC(=CC1)C)[N+](=O)[O-])(F)F | C7H5F3N2O5S
